US07842715B2
To a solution of 4-bromobenzoyl chloride (2.2 g, 10 mmol) and pyridine (1 mLl) in CH2Cl2 at 0° C. is added 3-(dimethylamino)pyrrolidine (1.14 mL, 10 mmol). The reaction is stirred at room temperature for 2 h, diluted with ether and filtered. The filtercake is washed with ether, treated with 0.1 N sodium hydroxide, stirred and filtered. This filtercake is washed with ether and recrystallized from petroleum ether to give 1-(4-bromobenzoyl)-3-dimethylaminopyrrolidine as a white powder (1.5 g), identified by NMR analysis.

reactant | 4-bromobenzoyl chloride | 10 mmol, 2.2 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-(dimethylamino)pyrrolidine | 10 mmol, 1.14 mL | CN(C1CNCC1)C | C6H14N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-(4-bromobenzoyl)-3-dimethylaminopyrrolidine | 1.5 g | BrC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H17BrN2O
